US06348622B1
40 g (20.4 mmol) of geranil acetate was dissolved in 100 ml of n-hexane. After adding 17.1 g (70.0 mmol) of trichloroisocyanuric acid slowly, the mixture was maintained at −10° C. to 0° C. for six hours. After the completion of the reaction, remaining trichloroisocyanuric acid and by-produced isocyanuric acid were removed out of the system by filtration. The filtrate was washed with a 5% aqueous solution of sodium hydrogencarbonate and ion-exchange water in order, and dried over anhydrous sodium sulfate. After removal of the solvent, a crude product was obtained. The crude product was subjected to silica gel column chromatography to give desired 6-chloro-3,7-dimethyl-2,7-octatrienyl acetate as pale yellow oil in a yield of 86%.

reactant | acetate | 20.4 mmol, 40 g | C(C)(=O)[O-]
reactant | trichloroisocyanuric acid | 70.0 mmol, 17.1 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | isocyanuric acid | N1C(=O)NC(=O)NC1=O | C3H3N3O3
